US09447074B2
Intermediate 2: 2-bromo-3-{[(4-methyl-2-pyridinyl)methyl]oxy}pyridine
A mixture of 2-bromo-3-pyridinol (commercially available, e.g. from Aldrich) (2.9 g) and potassium carbonate (6.94 g) in DMF (25 ml) was stirred for 20 min before adding 2-(chloromethyl)-4-methylpyridine hydrochloride (for preparation see WO 2008/141011) (3 g). This was stirred at room temperature overnight. The reaction mixture was poured into ice/water and the solid formed was collected by filtration, washed with hexane and dried to give the title compound, 2.87 g (61%).

reactant | 2-bromo-3-pyridinol | BrC1=NC=CC=C1O | C5H4BrNO
reactant | potassium carbonate | 6.94 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(chloromethyl)-4-methylpyridine hydrochloride | 3 g | Cl.ClCC1=NC=CC(=C1)C
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | 2-bromo-3-{[(4-methyl-2-pyridinyl)methyl]oxy}pyridine | BrC1=NC=CC=C1OCC1=NC=CC(=C1)C | C12H11BrN2O
